US04505921
3-chloro-3-phenyl-1-(3H)-isobenzofuranone
Over a period of 15 minutes, 22.5 parts of 2-benzoylbenzoic acid are added, in small portions, while stirring, to 40 parts of thionyl chloride. The reaction mixture is then brought slowly to reflux and this is maintained for 90 minutes. The excess thionyl chloride is removed in vacuo and the residue is taken up in 50 parts of anhydrous benzene and the whole is then evaporated to dryness in vacuo. The operation is repeated a second time and then the residue is taken up in 80 parts of anhydrous tetrahydrofuran. This solution is used in that form in the stage described below.

reactant | 2-benzoylbenzoic acid | C(C1=CC=CC=C1)(=O)C1=C(C(=O)O)C=CC=C1 | C14H10O3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 3-chloro-3-phenyl-1-(3H)-isobenzofuranone | ClC1(OC(C2=CC=CC=C12)=O)C1=CC=CC=C1 | C14H9ClO2
